* stage noise at its trip point, code 255
.lib /foss/pdks/ihp-sg13g2/libs.tech/ngspice/models/cornerMOSlv.lib mos_tt
.option temp=27
.include /work/analog/out/blocks/blocks.spice
Vdd VPWR 0 1.2
Vc0 code[0] 0 1.2
Vc1 code[1] 0 1.2
Vc2 code[2] 0 1.2
Vc3 code[3] 0 1.2
Vc4 code[4] 0 1.2
Vc5 code[5] 0 1.2
Vc6 code[6] 0 1.2
Vc7 code[7] 0 1.2
Xdac code[0] code[1] code[2] code[3] code[4] code[5] code[6] code[7] vbp VPWR 0 csro_dac
XMPD vbp vbp VPWR VPWR sg13_lv_pmos w=48u l=0.5u ng=24
XMPM vbn vbp VPWR VPWR sg13_lv_pmos w=1u l=0.5u ng=1
XMND vbn vbn 0 0 sg13_lv_nmos w=0.5u l=0.5u ng=1
Vin b 0 dc 0.6 ac 1
Xdut b y vbp vbn VPWR 0 csro_stage
Xload y z vbp vbn VPWR 0 csro_stage
Xload2 z zz vbp vbn VPWR 0 csro_stage
.control
dc Vin 0 1.2 0.001
meas dc vtrip find v(b) when v(y)=0.6
let vlo = vtrip - 0.005
let vhi = vtrip + 0.005
meas dc ylo find v(y) when v(b)=$&vlo
meas dc yhi find v(y) when v(b)=$&vhi
let gain = (yhi - ylo)/0.01
echo "vtrip=$&vtrip gain=$&gain"
alter Vin dc = $&vtrip
op
echo "vy_op=$&v(y)"
noise v(y) Vin dec 20 1k 100G
setplot noise2
let on_tot = onoise_total
let in_tot = inoise_total
echo "onoise_tot=$&on_tot inoise_tot=$&in_tot"
setplot noise1
wrdata onoise.txt onoise_spectrum
.endc
.end
